US08957074B2
Preparation of 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid
To a solution of 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid methyl ester (146 mg, 0.33 mmol, 1.0 eq) in THF (1.5 mL) was added LiOH (94.7 mg, 4.0 mmol, 12 eq) in 1.5 mL of water. The mixture was stirred at room temperature for 48 h. The reaction mixture was cooled to 0° C. in an ice bath and was acidified with 1N HCl until pH was about 1-2. The solid precipitate was filtered and washed to give the title compound as a light pink solid (52 mg, 0.124 mmol, 37%) and used as is; alternatively it can be extracted out with 20% Isopropanol in dichloromethane) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.99 (br s, 1H) 10.38 (br s, 1H) 8.87 (s, 1H) 8.81 (d, J=2.01 Hz, 1H) 8.53 (d, J=9.03 Hz, 1H) 8.19 (dd, J=9.03, 2.01 Hz, 1H) 6.67 (s, 1H) 4.44 (br s, 1H) 3.07 (d, J=13.05 Hz, 6H) 2.54-2.60 (m, 2H) 1.87-1.98 (m, 2H) 1.75-1.87 (m, 2H) 1.59-1.75 (m, 4H) 1.49 (m, 2H). MS (m/z, MH+): 423.5

reactant | 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid methyl ester | 0.33 mmol, 146 mg, 1.0 eq | COC(C1=CN=C(C=C1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCCCC2)=O | C23H28N6O3
reactant | LiOH | 4.0 mmol, 94.7 mg, 12 eq | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid | 0.124 mmol, 52 mg, 37% | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C22H26N6O3
